*** SPICE deck for cell 8to1-mux-cmos-layout{lay} from library 8to1-mux-cmos
*** Created on Thu Oct 26, 2023 18:37:36
*** Last revised on Fri Oct 27, 2023 13:00:15
*** Written on Fri Oct 27, 2023 13:00:24 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** TOP LEVEL CELL: 8to1-mux-cmos-layout{lay}
Mnmos@0 gnd net@65 net@19 gnd N L=0.35U W=1.4U AS=1.593P AD=3.639P PS=5.075U PD=9.275U
Mnmos@1 net@51 S0 gnd gnd N L=0.35U W=1.4U AS=3.639P AD=0.482P PS=9.275U PD=2.363U
Mnmos@2 net@14 D1 net@51 gnd N L=0.35U W=1.4U AS=0.482P AD=0.98P PS=2.363U PD=2.8U
Mnmos@3 net@19 D0 net@14 gnd N L=0.35U W=1.4U AS=0.98P AD=1.593P PS=2.8U PD=5.075U
Mnmos@4 net@65 S0 gnd gnd N L=0.35U W=1.4U AS=3.639P AD=1.593P PS=9.275U PD=5.075U
Mnmos@15 gnd net@302 net@255 gnd N L=0.35U W=1.4U AS=1.593P AD=3.639P PS=5.075U PD=9.275U
Mnmos@16 net@293 S0 gnd gnd N L=0.35U W=1.4U AS=3.639P AD=0.482P PS=9.275U PD=2.363U
Mnmos@17 net@211 D3 net@293 gnd N L=0.35U W=1.4U AS=0.482P AD=0.98P PS=2.363U PD=2.8U
Mnmos@18 net@255 D2 net@211 gnd N L=0.35U W=1.4U AS=0.98P AD=1.593P PS=2.8U PD=5.075U
Mnmos@19 net@302 S0 gnd gnd N L=0.35U W=1.4U AS=3.639P AD=1.593P PS=9.275U PD=5.075U
Mnmos@30 gnd net@690 net@661 gnd N L=0.35U W=1.4U AS=1.593P AD=3.639P PS=5.075U PD=9.275U
Mnmos@31 net@681 S1 gnd gnd N L=0.35U W=1.4U AS=3.639P AD=0.482P PS=9.275U PD=2.363U
Mnmos@32 net@656 net@211 net@681 gnd N L=0.35U W=1.4U AS=0.482P AD=0.98P PS=2.363U PD=2.8U
Mnmos@33 net@661 net@14 net@656 gnd N L=0.35U W=1.4U AS=0.98P AD=1.593P PS=2.8U PD=5.075U
Mnmos@34 net@690 S1 gnd gnd N L=0.35U W=1.4U AS=3.639P AD=1.593P PS=9.275U PD=5.075U
Mnmos@35 gnd net@928 net@819 gnd N L=0.35U W=1.4U AS=1.593P AD=3.639P PS=5.075U PD=9.275U
Mnmos@36 net@915 S0 gnd gnd N L=0.35U W=1.4U AS=3.639P AD=0.482P PS=9.275U PD=2.363U
Mnmos@37 net@814 D5 net@915 gnd N L=0.35U W=1.4U AS=0.482P AD=0.98P PS=2.363U PD=2.8U
Mnmos@38 net@819 D4 net@814 gnd N L=0.35U W=1.4U AS=0.98P AD=1.593P PS=2.8U PD=5.075U
Mnmos@39 net@928 S0 gnd gnd N L=0.35U W=1.4U AS=3.639P AD=1.593P PS=9.275U PD=5.075U
Mnmos@40 gnd net@858 net@832 gnd N L=0.35U W=1.4U AS=1.593P AD=3.639P PS=5.075U PD=9.275U
Mnmos@41 net@850 S0 gnd gnd N L=0.35U W=1.4U AS=3.639P AD=0.482P PS=9.275U PD=2.363U
Mnmos@42 net@825 D7 net@850 gnd N L=0.35U W=1.4U AS=0.482P AD=0.98P PS=2.363U PD=2.8U
Mnmos@43 net@832 D6 net@825 gnd N L=0.35U W=1.4U AS=0.98P AD=1.593P PS=2.8U PD=5.075U
Mnmos@44 net@858 S0 gnd gnd N L=0.35U W=1.4U AS=3.639P AD=1.593P PS=9.275U PD=5.075U
Mnmos@45 gnd net@969 net@941 gnd N L=0.35U W=1.4U AS=1.593P AD=3.639P PS=5.075U PD=9.275U
Mnmos@46 net@961 S1 gnd gnd N L=0.35U W=1.4U AS=3.639P AD=0.482P PS=9.275U PD=2.363U
Mnmos@47 net@935 net@825 net@961 gnd N L=0.35U W=1.4U AS=0.482P AD=0.98P PS=2.363U PD=2.8U
Mnmos@48 net@941 net@814 net@935 gnd N L=0.35U W=1.4U AS=0.98P AD=1.593P PS=2.8U PD=5.075U
Mnmos@49 net@969 S1 gnd gnd N L=0.35U W=1.4U AS=3.639P AD=1.593P PS=9.275U PD=5.075U
Mnmos@50 gnd net@1127 net@1099 gnd N L=0.35U W=1.4U AS=1.593P AD=3.639P PS=5.075U PD=9.275U
Mnmos@51 net@1118 S2 gnd gnd N L=0.35U W=1.4U AS=3.639P AD=0.482P PS=9.275U PD=2.363U
Mnmos@52 net@1094 net@935 net@1118 gnd N L=0.35U W=1.4U AS=0.482P AD=0.98P PS=2.363U PD=2.8U
Mnmos@53 net@1099 net@656 net@1094 gnd N L=0.35U W=1.4U AS=0.98P AD=1.593P PS=2.8U PD=5.075U
Mnmos@54 net@1127 S2 gnd gnd N L=0.35U W=1.4U AS=3.639P AD=1.593P PS=9.275U PD=5.075U
Mnmos@55 gnd net@1094 Y gnd N L=0.35U W=1.4U AS=1.593P AD=3.639P PS=5.075U PD=9.275U
Mpmos@0 net@1 net@65 vdd vdd P L=0.35U W=1.4U AS=4.516P AD=0.98P PS=10.739U PD=2.8U
Mpmos@1 net@14 S0 net@1 vdd P L=0.35U W=1.4U AS=0.98P AD=0.98P PS=2.8U PD=2.8U
Mpmos@2 net@1 D1 net@14 vdd P L=0.35U W=1.4U AS=0.98P AD=0.98P PS=2.8U PD=2.8U
Mpmos@3 vdd D0 net@1 vdd P L=0.35U W=1.4U AS=0.98P AD=4.516P PS=2.8U PD=10.739U
Mpmos@4 net@65 S0 vdd vdd P L=0.35U W=1.4U AS=4.516P AD=1.593P PS=10.739U PD=5.075U
Mpmos@15 net@209 net@302 vdd vdd P L=0.35U W=1.4U AS=4.516P AD=0.98P PS=10.739U PD=2.8U
Mpmos@16 net@211 S0 net@209 vdd P L=0.35U W=1.4U AS=0.98P AD=0.98P PS=2.8U PD=2.8U
Mpmos@17 net@209 D3 net@211 vdd P L=0.35U W=1.4U AS=0.98P AD=0.98P PS=2.8U PD=2.8U
Mpmos@18 vdd D2 net@209 vdd P L=0.35U W=1.4U AS=0.98P AD=4.516P PS=2.8U PD=10.739U
Mpmos@19 net@302 S0 vdd vdd P L=0.35U W=1.4U AS=4.516P AD=1.593P PS=10.739U PD=5.075U
Mpmos@30 net@654 net@690 vdd vdd P L=0.35U W=1.4U AS=4.516P AD=0.98P PS=10.739U PD=2.8U
Mpmos@31 net@656 S1 net@654 vdd P L=0.35U W=1.4U AS=0.98P AD=0.98P PS=2.8U PD=2.8U
Mpmos@32 net@654 net@211 net@656 vdd P L=0.35U W=1.4U AS=0.98P AD=0.98P PS=2.8U PD=2.8U
Mpmos@33 vdd net@14 net@654 vdd P L=0.35U W=1.4U AS=0.98P AD=4.516P PS=2.8U PD=10.739U
Mpmos@34 net@690 S1 vdd vdd P L=0.35U W=1.4U AS=4.516P AD=1.593P PS=10.739U PD=5.075U
Mpmos@35 net@812 net@928 vdd vdd P L=0.35U W=1.4U AS=4.516P AD=0.98P PS=10.739U PD=2.8U
Mpmos@36 net@814 S0 net@812 vdd P L=0.35U W=1.4U AS=0.98P AD=0.98P PS=2.8U PD=2.8U
Mpmos@37 net@812 D5 net@814 vdd P L=0.35U W=1.4U AS=0.98P AD=0.98P PS=2.8U PD=2.8U
Mpmos@38 vdd D4 net@812 vdd P L=0.35U W=1.4U AS=0.98P AD=4.516P PS=2.8U PD=10.739U
Mpmos@39 net@928 S0 vdd vdd P L=0.35U W=1.4U AS=4.516P AD=1.593P PS=10.739U PD=5.075U
Mpmos@40 net@822 net@858 vdd vdd P L=0.35U W=1.4U AS=4.516P AD=0.98P PS=10.739U PD=2.8U
Mpmos@41 net@825 S0 net@822 vdd P L=0.35U W=1.4U AS=0.98P AD=0.98P PS=2.8U PD=2.8U
Mpmos@42 net@822 D7 net@825 vdd P L=0.35U W=1.4U AS=0.98P AD=0.98P PS=2.8U PD=2.8U
Mpmos@43 vdd D6 net@822 vdd P L=0.35U W=1.4U AS=0.98P AD=4.516P PS=2.8U PD=10.739U
Mpmos@44 net@858 S0 vdd vdd P L=0.35U W=1.4U AS=4.516P AD=1.593P PS=10.739U PD=5.075U
Mpmos@45 net@933 net@969 vdd vdd P L=0.35U W=1.4U AS=4.516P AD=0.98P PS=10.739U PD=2.8U
Mpmos@46 net@935 S1 net@933 vdd P L=0.35U W=1.4U AS=0.98P AD=0.98P PS=2.8U PD=2.8U
Mpmos@47 net@933 net@825 net@935 vdd P L=0.35U W=1.4U AS=0.98P AD=0.98P PS=2.8U PD=2.8U
Mpmos@48 vdd net@814 net@933 vdd P L=0.35U W=1.4U AS=0.98P AD=4.516P PS=2.8U PD=10.739U
Mpmos@49 net@969 S1 vdd vdd P L=0.35U W=1.4U AS=4.516P AD=1.593P PS=10.739U PD=5.075U
Mpmos@50 net@1092 net@1127 vdd vdd P L=0.35U W=1.4U AS=4.516P AD=0.98P PS=10.739U PD=2.8U
Mpmos@51 net@1094 S2 net@1092 vdd P L=0.35U W=1.4U AS=0.98P AD=0.98P PS=2.8U PD=2.8U
Mpmos@52 net@1092 net@935 net@1094 vdd P L=0.35U W=1.4U AS=0.98P AD=0.98P PS=2.8U PD=2.8U
Mpmos@53 vdd net@656 net@1092 vdd P L=0.35U W=1.4U AS=0.98P AD=4.516P PS=2.8U PD=10.739U
Mpmos@54 net@1127 S2 vdd vdd P L=0.35U W=1.4U AS=4.516P AD=1.593P PS=10.739U PD=5.075U
Mpmos@55 vdd net@1094 Y vdd P L=0.35U W=1.4U AS=1.593P AD=4.516P PS=5.075U PD=10.739U

* Spice Code nodes in cell cell '8to1-mux-cmos-layout{lay}'
VDD VDD 0 DC 3.3
VGND GND 0 DC 0
*
*For logic simulation:
*Select lines:
VS2 S2 0 DC 0
VS1 S1 0 DC 0
VS0 S0 0 DC 0
*
*Inputs:
VD0 D0 0 PULSE(3.3 0 0 1n 1n 500n 1000n)
VD1 D1 0 DC 0
VD2 D2 0 DC 0
VD3 D3 0 DC 0
VD4 D4 0 DC 0
VD5 D5 0 DC 0
VD6 D6 0 DC 0
VD7 D7 0 DC 0
*
.TRAN 0 2000n
.meas risetime TRIG v(Y)=0.33 TD=0 rise=1 TARG v(Y)=2.97 TD=0 rise=1
.meas falltime TRIG v(Y)=2.97 TD=0 fall=1 TARG v(Y)=0.33 TD=0 fall=1
.meas tpHL TRIG v(D0)=1.65 TD=0 fall=1 TARG v(Y)=1.65 TD=0 fall=1
.meas tpLH TRIG v(D0)=1.65 TD=0 rise=1 TARG v(Y)=1.65 TD=0 rise=1
.meas propagationdelay param=(tpHL+tpLH)/2
.meas chip_current I_vdd AVG I(VDD)
.include Z:\MOS_model.txt
.END
